reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[H:11])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],73.17585030457049
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:14])([H:16])[C:6]([H:15])=[C:7]1[H:17])([H:8])([H:9])[H:10],68.485971112864
[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:12])[H:14])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][H:15],93.97180963200712
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([N+:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])([H:8])[H:10])([H:7])[H:9],91.3853180541584
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])[H:8].[O:3]([H:9])[H:11],68.5568319770266
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2](/[O:3][H:9])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])\[H:8],44.5164481231923
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C-:5]=[N+:6]1[H:7],85.9770647778833
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])/[C:6]1=[N:7]/[H:12])([H:8])([H:9])[H:10],107.890281166995
[O:1]([C:2]([C:3]([O:6][C:5](=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],70.6587291064853
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4][C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8],69.138286648749
[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[O+:5]=[C-:4][H:8])([H:6])[H:7],79.6247701415407
[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[H:5][H:8].[O:1]([C:2]([C:3](=[O:4])[H:9])([H:6])[H:7])[H:10],76.44286526071241
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[C:5]=[O:6])([H:7])([H:8])[H:9].[H:13][H:14],88.1123619376417
[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[N:1](=[C:2](/[O:3][C:6]#[N:7])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],50.65047805481401
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]1[C:6]([H:15])([H:16])[O:7]1)[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],48.28479675960969
[O+:1](=[C-:2][H:6])[C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],44.9020099306249
[C:1]([O:2][C:6](=[C:5]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],66.23194679477969
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[O:6][H:13])([H:7])([H:8])[H:9].[C:5]([H:11])[H:12],93.6794933715572
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]#[N:4])([H:8])([H:9])[H:10].[N:5]([C:6](=[O:7])[H:13])([H:11])[H:12],77.6576531081146
[C:1]([C@@:2]1([H:10])[C:3](=[C:4]([H:11])[H:12])[C:5]1=[C:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],62.7251081822476
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:5](=[C-:6][H:14])[C+:4]1[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],13.448367517740095
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[C:4]([O:5][H:15])=[N:6]\[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],29.4221662909451
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1=[C:6]([H:14])[O:7][N:5]([H:13])[C:4]1([H:11])[H:12])([H:9])[H:10])[H:8],70.290896930012
[H:9][H:12].[N:1](=[C:2](\[C@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:11])[H:10])\[H:8]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],93.7117614130861
